US08211919B2
To a suspension of phenylboronic acid (1.46 g) and 4A molecular sieves (4.5 g) in dichloromethane (40 mL) were added triethylamine (1.66 mL), methyl-(2S)-2-amino-3-tert-butoxypropanoate hydrochloride (1.26 g) and copper (II) acetate (1.19 g), then the mixture was stirred at ambient temperature for 5 days. The reaction was quenched with 7N ammonia in methanol (15 mL) and the mixture was filtered through a bed of celite. The filtrate was concentrated in vacuo and the residue was purified by silica gel column chromatography (eluent; n-hexane/ethyl acetate (2:1)) to afford methyl-(2S)-2-phenylamino-3-tert-butoxypropanoate (500 mg) as a colorless syrup.

reactant | phenylboronic acid | 1.46 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | triethylamine | 1.66 mL | C(C)N(CC)CC | C6H15N
reactant | methyl-(2S)-2-amino-3-tert-butoxypropanoate hydrochloride | 1.26 g | Cl.COC([C@H](COC(C)(C)C)N)=O
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
catalyst | copper (II) acetate | 1.19 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | methyl-(2S)-2-phenylamino-3-tert-butoxypropanoate | 500 mg | COC([C@H](COC(C)(C)C)NC1=CC=CC=C1)=O | C14H21NO3
